US06489476B1
A solution of 5-methyl-4-hydroxymethyl-2-oxo-1,3-dioxolene (1 mmole) in DMF was treated with tert-butyldimethylsilane (1.2 mmole) and imidazole (2.2 mmole) at 25° C. for 24 h. Extraction and chromatography gave 5-methyl-4-tert-butyldimethylsilyloxymethyl-2-oxo-1,3-dioxolene.

reactant | 5-methyl-4-hydroxymethyl-2-oxo-1,3-dioxolene | 1 mmole | CC1=C(OC(O1)=O)CO | C5H6O4
reactant | tert-butyldimethylsilane | 1.2 mmole | C(C)(C)(C)[SiH](C)C | C6H16Si
reactant | imidazole | 2.2 mmole | N1C=NC=C1 | C3H4N2
solvent | DMF | CN(C)C=O | C3H7NO
product | 5-methyl-4-tert-butyldimethylsilyloxymethyl-2-oxo-1,3-dioxolene | CC1=C(OC(O1)=O)CO[Si](C)(C)C(C)(C)C | C11H20O4Si
